Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with hx COPD on home O2, atrial 
fibrillation on apixaban, hypertension, CAD, and hyperlipidemia 
who presented with dyspnea.  
She has had multiple prior admissions for dyspnea. She was 
recently discharged on ___ after 3 day inpatient admission for 
COPD exacerbation. She was discharged on extended prednisone 
taper with plan for 5d 40mg Prednisone (to finish ___ followed 
by 10mg taper every 5 days (35mg from ___, 30mg ___, 
etc...). She initially went to rehab and subsequently went home 
2 days prior to admission.  
Upon arrival at home she subsequently had recrudescence of 
fatigue, wheezing, dyspnea. She also had increased O2 
requirements (up to 3L, using oxygen 24hr instead of during day 
only). Also with new cough, non-productive. Denies f/c, CP. No 
n/v, no myalgias. Decreased hearing in right ear with fullness 
for past 4 days. She was seen by PCP ___ noted to have 
inspiratory/expiratory wheezes, as well as decreased hearing and 
bulging TM right ear. She was referred to the ___ ED for 
further management.  
In the ED, initial vital signs were: 98.4 74 142/69 16 100%(2L 
NC)  
- Labs were notable for:  
 136 95 17 140  
 3.5 29 1.0  
 BNP 254  
 CBC within normal limits, but with neutrophil predominance  
 UA with 30 protein  
 VBG: pH 7.45, pCO2 43, pO2 59, HCO3 31  
 Flu PCR negative  
- Imaging:  
 CXR notable for no acute cardiopulmonary process.  
- The patient was given:  
 ___ 16:03 IH Albuterol 0.083% Neb Soln 1 NEB  
 ___ 16:03 IH Ipratropium Bromide Neb 1 NEB  
 ___ 17:12 IH Albuterol 0.083% Neb Soln 1 NEB  
 ___ 17:12 IH Ipratropium Bromide Neb 1 NEB  
 ___ 18:12 IH Albuterol 0.083% Neb Soln 1 NEB  
 ___ 18:12 IH Ipratropium Bromide Neb 1 NEB  
 ___ 21:05 IH Albuterol 0.083% Neb Soln 1 NEB  
 ___ 21:05 PO PredniSONE 60 mg  
 ___ 21:05 IV Magnesium Sulfate 2 gm  
 ___ 21:33 IH Albuterol 0.083% Neb Soln 1 NEB  
 Vitals prior to transfer were:  
 98.8 87 131/83 16 97% (2L)  
Upon arrival to the floor, she complained of wheezing and SOB, 
and persistent decreased hearing with fullness in right ear.  
 
REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, hematochezia, 
dysuria, rash, paresthesias, and weakness.
 
Past Medical History:
- COPD/Asthma on home 2L O2
- Atypical Chest Pain
- Hypertension
- Hyperlipidemia
- Osteroarthritis
- Atrial Fibrillation on Apixaban
- Anxiety
- Cervical Radiculitis
- Cervical Spondylosis
- Coronary Artery Disease
- Headache
- Herpes Zoster
- GI Bleeding
- Peripheral Vascular Disease s/p bilateral iliac stents
- s/p hip replacement
 
Social History:
___
Family History:
Mother with asthma and hypertension. Father with colon cancer. 
Brother with leukemia.

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
==================================
VITALS: 98.1 139/79 78 22 98RA  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.  
CARDIAC: Normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Inspiratory and expiratory wheezes in all lung fields 
 
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

PHYSICAL EXAMINATION ON DISCHARGE:
==================================
VITALS: 98.2 130-140/70'S 70-80's 20  98RA  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.  
CARDIAC: Normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Decreased inspiratory and expiratory wheezes in all 
lung fields  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 04:00PM BLOOD Neuts-92.1* Lymphs-4.5* Monos-2.7* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-5.51 AbsLymp-0.27* 
AbsMono-0.16* AbsEos-0.00* AbsBaso-0.00*
___ 04:00PM BLOOD Plt ___
___ 04:00PM BLOOD Glucose-140* UreaN-17 Creat-1.0 Na-136 
K-3.5 Cl-95* HCO3-29 AnGap-16
___ 04:00PM BLOOD proBNP-254
___ 03:58PM BLOOD ___ pO2-59* pCO2-43 pH-7.45 
calTCO2-31* Base XS-4

LABS ON DISCHARGE:
==================
___ 08:00AM BLOOD WBC-5.8 RBC-4.37 Hgb-11.9 Hct-38.2 MCV-87 
MCH-27.2 MCHC-31.2* RDW-20.4* RDWSD-65.6* Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-156* UreaN-21* Creat-0.9 Na-134 
K-3.4 Cl-92* HCO3-30 AnGap-15
___ 08:00AM BLOOD Calcium-9.7 Phos-3.6 Mg-2.0

STUDIES:
========
CXR ___: No acute cardiopulmonary process  
EKG: NSR rate 72, QTC 469, LBBB
 
Brief Hospital Course:
___ yo F with history of COPD on home O2, atrial fibrillation on 
apixaban, hypertension, CAD, hyperlipidemia, and recurrent 
hospitalization for COPD exacerbation over the last 4 months, 
who presented with dyspnea consistent with COPD exacerbation, 
possibly secondary to acute viral URI with concurrent sinusitis 
/ Eustachian tube dysfunction

# COPD exacerbation:  
Patient has been experiencing recurrent COPD exacerbations over 
the last 4 months. She presented with dyspnea consistent with 
COPD exacerbation, possibly secondary to acute viral URI with 
concurrent sinusitis / Eustachian tube dysfunction. We continued 
home spiriva, theophylline, and advair. We continued her steroid 
therapy at 30mg prednisone daily with a slow taper (5mg every 2 
weeks). We also treated her with levofloxacin (Day ___ 
with plan for 5-day course given COPD exacerbation with 
concurrent concern for sinusitis / bulging right tympanic 
membrane.

CHRONIC ISSUES:  
==================  
# Anxiety/Insomnia: We continued home lorazepam.  

# Atrial Fibrillation: We continued diltiazem for rate control 
and apixaban for anticoagulation.
 
# Hypertension: We continued home imdur, hydrochlorothiazide, 
and diltiazem.  
 
# CAD: Cardiac catheterization in ___ without evidence of 
significant stenosis of coronaries. ECHO on ___ with EF > 
55% and no regional or global wall motion abnormalities. We 
continued home aspirin and atorvastatin.  
 
# Anemia: We continued home iron supplements.

***TRANSITIONAL ISSUES:*** 
- Continue levofloxacin with plan for 5-day course (Day 
___ end ___
- Patient was started Bactrim PPX (1 tab SS daily) given 
extended courses of steroids, stop after discontinuation of 
steroids
- Patient was discharged on prednisone 30 mg with plan for taper 
by 5mg every 2 weeks:
 Prednisone 30 mg for two weeks (Day 1= ___ end 
___
 Prednisone 25 mg for two weeks (Day 1= ___ end 
___
 Prednisone 20 mg for two weeks (Day 1= ___ end 
___
 etc...
# CONTACT: ___ (husband/HCP) ___ 
# CODE STATUS: Full confirmed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. albuterol sulfate 90 mcg/actuation inhalation Q4H 
3. Apixaban 5 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Diltiazem Extended-Release 240 mg PO BID 
7. Docusate Sodium 100 mg PO BID 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
11. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
12. Guaifenesin ___ mL PO Q4H:PRN cough 
13. Hydrochlorothiazide 50 mg PO DAILY 
14. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
16. Lorazepam 0.5 mg PO Q8H:PRN Insomnia, anxiety, vertigo 
17. Multivitamins 1 TAB PO DAILY 
18. Ranitidine 300 mg PO DAILY 
19. Theophylline SR 300 mg PO BID 
20. Tiotropium Bromide 1 CAP IH DAILY 
21. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
22. cod liver oil 1 capsule  oral BID 
23. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 
24. PredniSONE 30 mg PO DAILY 
Tapered dose - DOWN 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. albuterol sulfate 90 mcg/actuation inhalation Q4H 
3. Apixaban 5 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Diltiazem Extended-Release 240 mg PO BID 
7. Docusate Sodium 100 mg PO BID 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
11. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
12. Guaifenesin ___ mL PO Q4H:PRN cough 
13. Hydrochlorothiazide 50 mg PO DAILY 
14. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
16. Lorazepam 0.5 mg PO Q8H:PRN Insomnia, anxiety, vertigo 
17. Multivitamins 1 TAB PO DAILY 
18. PredniSONE 30 mg PO DAILY 
Please decrease dose by 5mg every 2 weeks 
Tapered dose - DOWN 
RX *prednisone 10 mg 3 tablets(s) by mouth once a day Disp #*45 
Dose Pack Refills:*0
19. Ranitidine 300 mg PO DAILY 
20. Theophylline SR 300 mg PO BID 
21. Tiotropium Bromide 1 CAP IH DAILY 
22. Levofloxacin 750 mg PO DAILY Duration: 5 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0
23. Sulfameth/Trimethoprim SS 1 TAB PO DAILY prophylaxis for 
long term steroid use 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0
24. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
25. cod liver oil 1 capsule  oral BID 
26. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
COPD exacerbation

SECONDARY DIAGNOSES:
CAD
Hypertension anxiety
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ was a great pleasure taking care of you at ___ 
___. You came here because you were 
experiencing worsening shortness of breath as well as nasal 
congestion and decreased hearing. Your symptoms are likely 
related to an upper respiratory tract infection and exacerbation 
of your COPD. We started you on antibiotics and continued your 
prednisone.

The dose of prednisone will be decreased by 5 mg every two 
weeks; please take your prednisone as follows:
- Prednisone 30 mg for two weeks (Day 1= ___ end 
___
- Prednisone 25 mg for two weeks (Day 1= ___ end 
___
- Prednisone 20 mg for two weeks (Day 1= ___ end 
___
- Discuss with Dr. ___ further taper at f/u 

Please take all your medications on time and follow up with your 
doctors as ___.

Best regards,
Your ___ team
 
Followup Instructions:
___